US04939140
E. 3-(5-Bromobenzothiazole-2-ylmethyl)-4-oxo-3H-phthalazin-1-ylacetic acid
A mixture of ethyl 3-(5-bromobenzothiazol-2yl- methyl)-4-oxo-3-H-phthalazin-1-ylacetate (15.0 g) and dioxane (150 ml) was brought to solution by warming on a steam bath and to this solution was added a solution of 10% potassium hydroxide (20 ml) in ethanol (50 ml.). The resulting dark purple solution was stirred at room temperature for 2 hours and concentrated to remove excess dioxane and ethanol. The concentrate was diluted with water (100 ml) and the resulting solution was washed with ether (2×100 ml). The aqueous layer was collected and acidified to pH 2.0 by addition of concentrated HCl. The precipitated solid was crystallized from methylene chloride/ethanol (400 ml/40 ml) to obtain the product (Yield 7.65 g; m.p. 214° C.).

reactant | ethyl 3-(5-bromobenzothiazol-2yl- methyl)-4-oxo-3-H-phthalazin-1-ylacetate | 15.0 g | BrC=1C=CC2=C(N=C(S2)CN2N=C(C3=CC=CC=C3C2=O)CC(=O)OCC)C1 | C20H16BrN3O3S
reactant | dioxane | 150 ml | O1CCOCC1 | C4H8O2
reactant | potassium hydroxide | 20 ml | [OH-].[K+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-(5-Bromobenzothiazole-2-ylmethyl)-4-oxo-3H-phthalazin-1-ylacetic acid | BrC=1C=CC2=C(N=C(S2)CN2N=C(C3=CC=CC=C3C2=O)CC(=O)O)C1 | C18H12BrN3O3S
